US07955664B2
10.2 g (17.7 mmol) of (6-fluoro-3-pentylchroman-7-ylmethyl)triphenylphosphonium bromide are dissolved in 50 ml of THF, and 2.0 g (17.8 mmol) of potassium tert-butoxide are added with ice cooling. After 1 h, a solution of 6,8-difluoro-2H-chromene-3-carbaldehyde in 50 ml of THF is slowly added dropwise, and the batch is left to stir overnight at room temp. The solution is subsequently added to water, acidified using dil. hydrochloric acid and extracted three times with MTB ether. The combined org. phases are washed with sat. sodium chloride soln. and dried over sodium sulfate. The solvent is removed in vacuo, and the residue is chromatographed on silica gel with heptane/toluene (1:1) and recrystallised from heptane at −20° C., giving 6,8-difluoro-3-[2-(6-fluoro-3-pentylchroman-7-yl)vinyl]-2H-chromene as yellow crystals.

reactant | (6-fluoro-3-pentylchroman-7-ylmethyl)triphenylphosphonium bromide | 17.7 mmol, 10.2 g | [Br-].FC=1C=C2CC(COC2=CC1C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCCCC
reactant | potassium tert-butoxide | 17.8 mmol, 2.0 g | CC(C)([O-])C.[K+]
reactant | 6,8-difluoro-2H-chromene-3-carbaldehyde | FC=1C=C2C=C(COC2=C(C1)F)C=O | C10H6F2O2
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6,8-difluoro-3-[2-(6-fluoro-3-pentylchroman-7-yl)vinyl]-2H-chromene | FC=1C=C2C=C(COC2=C(C1)F)C=CC1=C(C=C2CC(COC2=C1)CCCCC)F | C25H25F3O2
